US05084549
1a) Preparation of 4-methoxybenzoic acid-4-hydroxyphenyl ester
912 g p-methoxybenzoic acid and 660 g hydroquinone are heated under reflux in the presence of 12 g boric acid and ml sulfuric acid (98%) until the elimination of water is over. After cooling, the crystals precipitating are filtered under suction, washed and redried. Yield: 1250 g colorless crystals. Melting point: 162°-165° C. Mp. J. Org. Chem. 37, 1425 (1972) 156° C.

reactant | p-methoxybenzoic acid | 912 g | COC=1C=CC(=CC1)C(=O)O | C8H8O3
reactant | hydroquinone | 660 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | boric acid | 12 g | B(O)(O)O | BH3O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-methoxybenzoic acid-4-hydroxyphenyl ester | OC1=CC=C(C=C1)OC(C1=CC=C(C=C1)OC)=O | C14H12O4
